US08053440B2
5,7-Dimethoxy-2-(4-methoxyphenyl)quinazolin-4(3H)-one was synthesized from 2-amino-4,6-dimethoxybenzamide and 4-methoxy benzaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 5,7-Dimethoxy-2-(4-methoxyphenyl)quinazolin-4(3H)-one (106 mg, 44%) was isolated as an off-white solid. Selected data: MS (m/z): 312.99; MP 276-277° C.

reactant | 2-amino-4,6-dimethoxybenzamide | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-methoxy benzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 5,7-Dimethoxy-2-(4-methoxyphenyl)quinazolin-4(3H)-one | 106 mg, 44% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=O | C17H16N2O4
